US05234818
3-Amino-4-chloro-2-methoxypyrazolo[1,5-a]pyridine hydrochloride
7.5 g. N-Amino-3-chloropyridinium mesitylene-sulphonate (see J. Chem. Soc. Perkin I, 2580/1973) are dissolved in 50 ml. dry dimethylformamide and mixed with 3.5 g. finely powdered potassium carbonate. 28 ml. of a 5M diketene solution in methylene chloride are added thereto with cooling. The reaction mixture is stirred for 30 minutes at 0° C. and for 2 hours at ambient temperature. The precipitate obtained is filtered off with suction, the filtrate is evaporated and the residue obtained is purified by chromatography on silica gel with methylene chloride/5-10% methanol. There are obtained 2.7 g. of the N-acetoacetylated compound which is dissolved in 100 ml. ethanol and mixed with 2.6 g. of finely powdered potassium carbonate. The reaction mixture is stirred for 2 days at ambient temperature and finally evaporated. The residue is dissolved in 100 ml. dry dimethylformamide, the solution is cooled and mixed with 7 g. methyl iodide. The reaction mixture is stirred for 1 hour at 0° C. and for 30 hours at ambient temperature. The dimethylformamide is distilled off and the residue is dissolved in water/ethyl acetate. The ethyl acetate phase is separated off, dried and evaporated. The product obtained is purified by column chromatography on silica gel with methylene chloride/ethyl acetate (20:1 v/v). There is obtained 0.8 g. 3-acetyl-4-chloro-2-methoxypyrazolo[1,5-a]-pyridine which is nitrosated and reduced analogously to Example 3. Yield: 0.3 g. of the title compound; m.p. 200°-230° C. (decomp.).

reactant | N-Amino-3-chloropyridinium mesitylene-sulphonate | C1(=C(C(=CC(=C1)C)C)S(=O)(=O)[O-])C.N[N+]1=CC(=CC=C1)Cl
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | diketene | 5M | C=C1CC(=O)O1 | C4H4O2
reactant | 3-acetyl-4-chloro-2-methoxypyrazolo[1,5-a]-pyridine | C(C)(=O)C=1C(=NN2C1C(=CC=C2)Cl)OC | C10H9ClN2O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | ethanol | C(C)O | C2H6O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 3-Amino-4-chloro-2-methoxypyrazolo[1,5-a]pyridine hydrochloride | Cl.NC=1C(=NN2C1C(=CC=C2)Cl)OC | InChI=1S/C8H8ClN3O.ClH/c1-13-8-6(10)7-5(9)3-2-4-12(7)11-8;/h2-4H,10H2,1H3;1H
